US05494887
23. Preparation of 2-Benzylthio-5-methoxythieno[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine
3-Benzylthio-5-methylthiothieno[3,2-e][1,2,4]-triazolo[4,3-c]pyrimidine (19.2 g (57.2 mmol)was mixed with 100 mL of methanol and to this was added with stirring 7.7 mL (86 mmol) of methyl acrylate and 3.3 mL of 25 percent sodium methoxide in methanol. After 2 hours at ambient temperature, the mixture was heated to reflux for about 2.5 hours during which time another 10 mL of 25 percent sodium methoxide in methanol was added. The mixture was stirred at ambient temperature overnight and then another 5 mL of the 25 percent sodium methoxide in methanol was added and the mixture heated to reflux again for 2 hours. The resulting mixture was acidified with acetic acid and was then concentrated by evaporation under reduced pressure to obtain a tan solid. This was dissolved in 600 mL of dichloromethane and the solution obtained was washed 3×100 mL with water, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The tan, solid residue was flash chromatographed on silica gel (240-400 mesh, 5×20 cm (centimeter) column) eluting with mixtures of hexane and ethyl acetate ranging from 90:10 to 50:50. The second compound to elute was collected to obtain 12.6 g of the title compound as a nearly white solid melting at 160°-162° C. The proton NMR spectra of this was consistent with the assigned structure.

reactant | 3-Benzylthio-5-methylthiothieno[3,2-e][1,2,4]-triazolo[4,3-c]pyrimidine | C(C1=CC=CC=C1)SC1=NN=C2N1C(=NC1=C2C=CS1)SC | C15H12N4S3
reactant | methyl acrylate | 86 mmol, 7.7 mL | C(C=C)(=O)OC | C4H6O2
reactant | sodium methoxide | 3.3 mL | C[O-].[Na+]
reactant | sodium methoxide | 10 mL | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | methanol | 100 mL | CO | CH4O
product | 2-Benzylthio-5-methoxythieno[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine | 12.6 g | C(C1=CC=CC=C1)SC1=NN2C(=NC3=C(C2=N1)C=CS3)OC | C15H12N4OS2
